US07244753B2
11a. 2-(4-Methylthiophenyl)(3-pyridyl) 2-pyridyl Ketone
2-Chloro(3-pyridyl) 2-pyridyl ketone (Ryan Scientific Inc., South Carolina, U.S.) (810 mg, 3.7 mmol) and 4-(methylthio)benzeneboronic acid (830 mg, 5 mmol) were dissolved in toluene (50 mL) and ethanol (5 mL). To this solution was added 2 M Na2CO3 (6 mL, 12 mmol) followed by tetrakis (triphenylphosphine)palladium (250 mg, 0.2 mmol) and the resulting mixture was refluxed overnight under nitrogen atmosphere. The mixture was then cooled to room temperature and diluted with water (25 mL), stirred and the aqueous layer was separated and extracted with ethyl acetate (1×75 mL). The combined organic layers were washed with water (2×50 mL), brine (1×50 mL), dried over sodium sulfate, filtered and concentrated at reduced pressure to give the crude product. Purification by column chromatography over silica gel using 40% ethyl acetate in hexane gave the title compound (770 mg, 68% yield) as a white solid; mp 122-123° C.; 1H NMR (CDCl3) δ 8.87 (dd, J=4.8 and 1.7 Hz, 1H), 8.45 (d, J=4.7 Hz, 1H), 8.0 (dd, J=7.7 and 1.4 Hz, 2H), 7.75 (m, 1H), 7.45-7.3 (m, 4H), 7.12 (d, J=8.4 Hz, 2H), 2.44 (s, 3H); 13C NMR (CDCl3) δ 196.0, 157.6, 153.5, 150.7, 148.8, 139.3, 137.4, 136.6, 136.5, 133.6, 129.4 (2C), 126.5, 125.7 (2C), 123.5, 121.1, 15.3; LRMS (APIMS) m/z 307 (M+H)+.

reactant | 2-Chloro(3-pyridyl) 2-pyridyl ketone | 3.7 mmol, 810 mg | N1=C(C=CC=C1)C(=O)C=1C(=NC=CC1)Cl | C11H7ClN2O
reactant | 4-(methylthio)benzeneboronic acid | 5 mmol, 830 mg | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | Na2CO3 | 12 mmol, 2 M, 6 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 25 mL | O | H2O
product | 2-(4-Methylthiophenyl)(3-pyridyl) 2-pyridyl Ketone | 770 mg, 68% yield | N1=C(C=CC=C1)C(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)SC | C18H14N2OS
